* LIBRERIA CON TODO

***** NE5532 Source: Texas Instruments NE5534
* C2 added to simulate compensated frequency response (Uwe Beis)

* NE5532 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING NE5534 model from Texas InstrumentsAT 12:41
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT NE5532   1 2 3 4 5
*
C1   11 12 7.703E-12
C2    6  7 23.500E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.893E6 -3E6 3E6 3E6 -3E6
GA    6  0 11 12 1.382E-3
GCM   0  6 10 99 13.82E-9
IEE  10  4 DC 133.0E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   3 11 723.3
RC2   3 12 723.3
RE1  13 10 329
RE2  14 10 329
REE  10 99 1.504E6
RO1   8  5 50
RO2   7 99 25
RP    3  4 7.757E3
VB    9  0 DC 0
VC    3 53 DC 2.700
VE   54  4 DC 2.700
VLIM  7  8 DC 0
VLP  91  0 DC 38
VLN   0 92 DC 38
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=132)
.ENDS


.SUBCKT tip141 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



.SUBCKT tip146 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT tip122 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
* Model generated on Dec 19, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.7545
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67927e-10
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS

.SUBCKT tip127 1 2 3
* Model generated on Dec 26, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.84905
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=2.2383e-14 BF=390.271 NF=0.874443 VAF=38.5083
+IKF=0.202108 ISE=1.49947e-10 NE=1.64874 BR=0.1
+NR=1.32278 VAR=134.629 IKR=0.177707 ISC=1.03339e-13
+NC=1.97553 RB=4.89811 IRB=0.200734 RBM=4.89811
+RE=0.089979 RC=0.449895 XTB=0.584937 XTI=2.92881 EG=1.05
+CJE=2.09764e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.53285e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=2.2383e-14 BF=390.271 NF=0.874443 VAF=38.5083
+IKF=0.202108 ISE=1.49947e-10 NE=1.64874 BR=0.1
+NR=1.32278 VAR=134.629 IKR=0.177707 ISC=1.03339e-13
+NC=1.97553 RB=4.89811 IRB=0.200734 RBM=4.89811
+RE=0.089979 RC=0.449895 XTB=0.584937 XTI=2.92881 EG=1.05
+CJE=2.09764e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.MODEL Qtip41c npn
+IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100
+IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542
+NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08
+NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1
+RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1
+EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503
+TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001
+CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=9.01013e-08 PTF=0 KF=0 AF=1
* Model generated on Dec 27, 2003
* Model format: PSpice


.MODEL Qtip42c pnp
+IS=5.65618e-10 BF=120.073 NF=1.24004 VAF=90.6071
+IKF=1.46498 ISE=6.98929e-14 NE=4 BR=2.83268
+NR=1.30331 VAR=27.1221 IKR=10 ISC=6.98934e-14
+NC=3.78125 RB=4.71382 IRB=0.234602 RBM=0.12691
+RE=0.000666374 RC=0.0927424 XTB=3.21145 XTI=1
+EG=1.05 CJE=1.93221e-10 VJE=0.4 MJE=0.259369
+TF=9.99163e-09 XTF=4.41941 VTF=6.53488 ITF=0.001
+CJC=1.0962e-10 VJC=0.731968 MJC=0.23 XCJC=0.799902
+FC=0.799995 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
* Model generated on Dec 22, 2003
* Model format: PSpice


*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com


* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt LM741/NS 1 2 3 4 5
*
c1   11 12 8.661E-12
c2    6  7 30.00E-12
dc    5 53 dy
de   54  5 dy
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2),(3,0),(4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -1E3 1E3 10E6 -10E6
ga    6  0 11 12 188.5E-6
gcm   0  6 10 99 5.961E-9
iee  10  4 dc 15.16E-6
hlim 90  0 vlim 1K
q1   11  2 13 qx
q2   12  1 14 qx
r2    6  9 100.0E3
rc1   3 11 5.305E3
rc2   3 12 5.305E3
re1  13 10 1.836E3
re2  14 10 1.836E3
ree  10 99 13.19E6
ro1   8  5 50
ro2   7 99 100
rp    3  4 18.16E3
vb    9  0 dc 0
vc    3 53 dc 1
ve   54  4 dc 1
vlim  7  8 dc 0
vlp  91  0 dc 40
vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



